US07737138B2
In one embodiment, an N,N-dimethyl-1,4-diamino-benzene, 3′, is oxidized in the presence of a thiosulfate to give a thiosulfuric acid S-{2-(amino)-5-(dimethylamino)-phenyl}ester, 4′, as illustrated in the following scheme:

reactant | N,N-dimethyl-1,4-diamino-benzene | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | thiosulfate | S(=S)(=O)([O-])[O-]
product | thiosulfuric acid S-{2-(amino)-5-(dimethylamino)-phenyl}ester | NC1=C(C=C(C=C1)N(C)C)SS(O)(=O)=O | C8H12N2O3S2
